### PR TITLE
Disprove WOWII Conjecture 103

### LINKED ISSUE #4481: Counterexample to Written on the Wall II Conjecture 103
## Summary

With assistance from OpenAI ChatGPT, I identified a counterexample to the currently formalized statement of Written on the Wall II Conjecture 103:

$$
\alpha(G) \le \left\lfloor b(G) - \ln(\mathrm{ecc}_{\mathrm{avg}}(G)) \right\rfloor.
$$

PR #4482 records the counterexample and marks the statement false/solved, following the repository's existing pattern for disproved WOWII conjectures.

## Counterexample

Let $G$ have vertices

$$
x,y,c,a_1,a_2,a_3,a_4,b_1,b_2,b_3,b_4
$$

and exactly these edges:

- $xy, xc, yc$, so $x,y,c$ form a triangle;
- $xa_i$ for $1 \le i \le 4$;
- $yb_j$ for $1 \le j \le 4$.

Then:

- $\alpha(G)=9$: the eight leaves together with $c$ form a maximum independent set.
- $b(G)=10$: deleting $c$ leaves an induced bipartite double star on ten vertices, while the full graph is not bipartite because it contains the triangle $x,y,c$.
- $\mathrm{ecc}_{\mathrm{avg}}(G)=30/11$: $x,y,c$ have eccentricity $2$, and the eight leaves have eccentricity $3$.

Since $30/11 > e$ and $30/11 < e^2$,

$$
1 < \ln(30/11) < 2
$$

and hence

$$
\left\lfloor 10-\ln(30/11)\right\rfloor=8.
$$

The conjectured inequality therefore becomes $9 \le 8$.

The same construction gives an infinite family: attach $p,q\ge1$ leaves to the two triangle vertices with $p+q\ge8$.

## Scope and verification

This concerns the exact current Formal Conjectures formalization and its definitions of $b(G)$, independence number, and average eccentricity. I am not claiming that worldwide or historical priority has been established; the counterexample may have been observed previously under different notation or outside indexed sources.

OpenAI ChatGPT assisted with the counterexample search and mathematical write-up. OpenAI Codex assisted with independent verification, the Lean formalization, repository validation, and preparation of the contribution. The finite graph invariants were independently exhaustively enumerated, and PR #4482 contains the Lean-checked theorem and validation results.

### PR DESCRIPTION
**Pull request by CinnamonRolls1**
## Summary

- disprove Written on the Wall II Conjecture 103 with an explicit 11-vertex graph
- verify in Lean that the graph is connected, has independence number 9, largest induced bipartite subgraph size 10, and average eccentricity `30 / 11`
- change the conjecture to `answer(False)` and prove the proposed upper bound evaluates to 8

The counterexample is a triangle with four leaves attached to each of two triangle vertices. The exact formalized inequality therefore reads `9 ≤ 8` on this graph. Graph6 string: `J{aCA@?OA??`

This PR resolves the exact current Formal Conjectures formalization. It does not claim that historical or worldwide priority for the counterexample has been established.

Closes #4481.

## AI assistance disclosure

The counterexample search and mathematical write-up were developed with assistance from OpenAI ChatGPT. OpenAI Codex assisted with independent verification, the Lean formalization, repository validation, and preparation of this contribution. The finite graph invariants were independently exhaustively enumerated, and the submitted theorem is checked by Lean.

## Verification

- independent exhaustive enumeration of all 2,048 vertex subsets (`alpha = 9`, `b = 10`)
- `lake --wfail build FormalConjectures.WrittenOnTheWallII.GraphConjecture103`
- `lake --wfail build`
- `#print axioms WrittenOnTheWallII.GraphConjecture103.conjecture103` reports `propext`, `Classical.choice`, `Lean.ofReduceBool`, `Lean.trustCompiler`, and `Quot.sound`; the native-evaluation axioms arise from the `decide +native` checks

### CODE REVIEW

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture103.lean [hunk 1]
```diff
@@ -38,20 +126,27 @@ where $\alpha(G) = G.\mathrm{indepNum}$ is the independence number,
...
-
-/-- `Real.log` of a positive real is well-defined. -/
-@[category test, AMS 5]
-example : Real.log 1 = 0 := Real.log_one
+This conjecture is false. The graph `wowii103Counterexample` has independence number $9$,
+largest induced bipartite subgraph size $10$, and average eccentricity $30/11$. Since
+$1 < \ln(30/11) < 2$, the proposed upper bound is $8$.
+-/
+@[category research solved, AMS 5, formal_proof using formal_conjectures at
+  "https://github.com/CinnamonRolls1/formal-conjectures/blob/f403989abe71687597f21d72b72505b2c8133511/FormalConjectures/WrittenOnTheWallII/GraphConjecture103.lean#L135-L149"]
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture103.lean]:
```suggestion
@[category research solved, AMS 5]
```

if we keep the proof here (and it doesn't seem to be so long), we don't need the formal_proof link.

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture103.lean [hunk 2]
```diff
@@ -27,7 +27,95 @@ namespace WrittenOnTheWallII.GraphConjecture103
...
+    (G.induce s).IsBipartite ↔
+      ∃ c : α → Fin 2, ∀ u ∈ s, ∀ v ∈ s, G.Adj u v → c u ≠ c v := by
+  constructor
+  · rintro ⟨c⟩
+    refine ⟨fun v => if hv : v ∈ s then c ⟨v, hv⟩ else 0, ?_⟩
+    intro u hu v hv huv
+    simp only [dif_pos hu, dif_pos hv]
+    exact c.valid huv
+  · rintro ⟨c, hc⟩
+    exact ⟨Coloring.mk (fun v => c v) fun {u v} huv => hc u u.prop v v.prop huv⟩
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture103.lean]: this should go to `FormalConjecturesForMathlib` (if there is not the same statement in `Mathlib` already)

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture103.lean [hunk 3]
```diff
@@ -27,7 +27,95 @@ namespace WrittenOnTheWallII.GraphConjecture103
...
+    · rintro n ⟨s, hs, rfl⟩
+      apply Finset.le_sup
+      exact Finset.mem_filter.mpr ⟨Finset.mem_powerset.mpr (Finset.subset_univ s),
+        (induce_isBipartite_iff_exists_coloring G s).mp hs⟩
+  · apply Finset.sup_le
+    intro s hs
+    apply le_csSup
+    · exact ⟨Fintype.card α, fun n ⟨t, _, ht⟩ => ht ▸ t.card_le_univ⟩
+    · exact ⟨s, (induce_isBipartite_iff_exists_coloring G s).mpr
+        (Finset.mem_filter.mp hs).2, rfl⟩
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture103.lean]: also should go to an appropriate place in `FormalConjecturesForMathlib`.

**Review by mo271 — COMMENTED** [review]
Thanks! Congrats on finding an apparent counterexample! I'll let @Danie-I check if this is indeed what was intended by the conjecture.
Added a few remarks...

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture103.lean (hunk 2 above)
Comment (CinnamonRolls1) [reply FormalConjectures/WrittenOnTheWallII/GraphConjecture103.lean]: makes sense, moved

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture103.lean (hunk 3 above)
Comment (CinnamonRolls1) [reply FormalConjectures/WrittenOnTheWallII/GraphConjecture103.lean]: Moved to FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Induced.lean

**Comment by CinnamonRolls1** [comment]
-awaiting-author

**Review by Danie-I — COMMENTED** [review]
Congratulations on counterexample. Conjecture statement matches one from the WrittenOnTheWall. Could you please add graph6 string to the description so that it is easy to visualize graph? graph6: J{aCA@?OA??

**Comment by CinnamonRolls1** [comment]
> Congratulations on counterexample. Conjecture statement matches one from the WrittenOnTheWall. Could you please add graph6 string to the description so that it is easy to visualize graph? graph6: J{aCA@?OA??

Thanks! I've added it to the PR description.

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
